US07700776B2
Montelukast cyclohexylamine salt suspended in toluene (5 parts) was treated with aqueous acetic acid (5 parts) until a pH of 5.0˜5.5 was reached. The organic phase was separated and washed with water (5 parts) twice, and the resulting organic layer was concentrated to provide a crude oil of montelukast acid. The montelukast acid (100.0 g, 170.2 mmol) thus obtained was dissolved in 500 mL THF, and then 78 mL of ca. 2N NaOH aqueous solution was added under nitrogen. After stirring for several minutes, the solvent was removed under reduced pressure at 30° C. to afford montelukast sodium as a crude oil. The crude oil was taken up in 2.5 L water and concentrated to remove the remaining THF until the total volume was about 2.7 L (THF remained as analyzed by GC was 1.7%). The aqueous solution of montelukast sodium was filtered, and its purity was determined by HPLC (99.7%). The filtered solution was subjected to spray drying at various conditions, and the results were listed in Table 5.

reactant | montelukast | 170.2 mmol, 100.0 g | CC(C)(C=1C=CC=CC1CC[C@H](C=2C=CC=C(C2)/C=C/C=3C=CC=4C=CC(=CC4N3)Cl)SCC5(CC5)CC(=O)O)O | C35H36ClNO3S
reactant | NaOH | ca. 2N, 78 mL | [OH-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | montelukast sodium | CC(C)(C=1C=CC=CC1CC[C@H](C=2C=CC=C(C2)/C=C/C=3C=CC=4C=CC(=CC4N3)Cl)SCC5(CC5)CC(=O)[O-])O.[Na+] | InChI=1S/C35H36ClNO3S.Na/c1-34(2,40)30-9-4-3-7-25(30)13-17-32(41-23-35(18-19-35)22-33(38)39)27-8-5-6-24(20-27)10-15-29-16-12-26-11-14-28(36)21-31(26)37-29;/h3-12,14-16,20-21,32,40H,13,17-19,22-23H2,1-2H3,(H,38,39);/q;+1/p-1/b15-10+;/t32-;/m1./s1
